* source SIMUANALOGDEVICEBODE
V_V1         VDD 0 2.5
V_V2         VCC 0 5
R_R1         N00641 N00720  5.62k TC=0,0 
R_R2         N00720 N00749  2.87k TC=0,0 
R_R3         N00720 N00786  5.62k TC=0,0 
R_R4         N00616 N00641  11.3k TC=0,0 
R_R5         N00616 N00620  7.68k TC=0,0 
R_R6         N01061 N00616  11.3k TC=0,0 
C_C1         N00620 N00641  910p  TC=0,0 
C_C2         N00749 N00786  910p  TC=0,0 
C_C3         0 N00720  12n  TC=0,0 
C_C4         0 N00616  2.2n  TC=0,0 
V_V3         N01061 0  AC 1
+SIN 2.5 1 60 0 0 0
X_U6-1         VDD N00620 VCC 0 N00641 OPA2131E/BB
X_U6-2         VDD N00749 VCC 0 N00786 OPA2131E/BB
