* source SIMULATINGAMPLIFIERMCP6002
V_V1         VCC 0 3.3
V_V2         0 VEE 3.3
X_U2         0 N01469 VCC VEE N01348 MCP6001
R_R1         N01348 N01469  1k TC=0,0 
R_R2         0 N01469  1k TC=0,0 
.PARAM  rx=1k
