* source SIMULACIONDEPRUEBA
V_V1         VCC 0 5
X_U1A         N00334 N00276 VCC VEE} N00276 LM324/NS
V_V2         0 VEE 5
V_V3         N00334 0  AC 0
+SIN 0 1 60 0 0 0
