* source SIMULACION_SENSOR_AGUA
V_V1         VCC 0 5
V_V2         VIN 0 2.5
X_U2         N04664 VO VCC 0 VO MCP6001
R_R3         0 N00954  560 TC=0,0 
R_R5         N01362 N03429  30k TC=0,0 
R_R6         N01362 VCC  {barrido} TC=0,0 
C_C1         0 N00954  100N  TC=0,0 
Q_Q6         VCC N03429 N00954 SS8050 
V_V3         N04664 0 DC 0Vdc AC 1Vac 
.PARAM  barrido=10000k
